US06184236B2
A mixture of 2-(4-methoxyphenyl)-cyclohexanone (prepared following the procedure described in W. E. Bachmann et al., J. Am. Chem. Soc., 1950, 72, 1995) (2.0 g, 9.79 mmol), phenethylamine (1.19 g, 9.79 mmol), toluene (40 ml) and a catalytical amount of p-toluenesulfonic acid was refluxed in a Dean-Stark apparatus overnight. After removal of the solvent, the residue was dissolved in MeOH (25 ml) and sodium borohydride (excess) was added. After stirring for 1 h at RT, the solvent was evaporated, H2O was added to the residue. Extraction with CH2Cl2, drying of the organic layer over Na2SO4, evaporation of the solvent and chromatography of the residue over SiO2 (Merck 230-400 mesh) eluting with AcOEt gave (1RS,2RS)-[2-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine (1.5 g, 50%, light yellow oil, MS: m/e=310.2 (M+H+)) and (1RS,2SR)-[2-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine (0.95 g, 31%, light yellow oil, MS: m/e=310.2 (M+H+)).

reactant | 2-(4-methoxyphenyl)-cyclohexanone | COC1=CC=C(C=C1)C1C(CCCC1)=O | C13H16O2
reactant | phenethylamine | 9.79 mmol, 1.19 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (1RS,2RS)-[2-(4-methoxy-phenyl)-cyclohexyl]-phenethyl-amine | COC1=CC=C(C=C1)C1C(CCCC1)NCCC1=CC=CC=C1 | C21H27NO
